US07173004B2
To a solution of 6.65 g (23 mmol) of N-tert-butoxycarbonyl-O-(4-pentenyl)-L-serine, methyl ester in 500 mL of tetrahydrofuran at room temperature was added a solution of 1.95 g (46 mmol) of lithium hydroxide monohydrate in 100 mL of water. The resulting mixture was stirred at room temperature for 40 hours. To the reaction mixture then was added 46 mL of 1.00N hydrochloric acid. The mixture was diluted with ethyl acetate, washed with water (3×) and brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to afford 6.30 g of N-tert-butoxycarbonyl-O-(4-pentenyl)-L-serine as a colorless oil. NMR (300 MHz, CDCl3): δ 5.77 (d of d of t, 1H, J=17.2, 10.2, 6.6 Hz), 5.37 (br d, 1H, J=8.0 Hz), 5.03–4.92 (m, 2H), 4.42 (m, 1H), 3.87 (d of d, 1H, J=9.5, 2.6 Hz), 3.63 (d of d, 1H, J=9.5, 4.0 Hz), 3.45 (t, 2H, J=6.6 Hz), 2.07 (quart., 2H, J=7.3 Hz), 1.64 (quint., 2H, J=7.3 Hz), 1.44 (s, 9H).

reactant | N-tert-butoxycarbonyl-O-(4-pentenyl)-L-serine, methyl ester | 23 mmol, 6.65 g | C(C)(C)(C)OC(=O)N[C@@H](COCCCC=C)C(=O)OC | C14H25NO5
reactant | lithium hydroxide monohydrate | 46 mmol, 1.95 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1.00N, 46 mL | Cl | ClH
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-tert-butoxycarbonyl-O-(4-pentenyl)-L-serine | 6.30 g | C(C)(C)(C)OC(=O)N[C@@H](COCCCC=C)C(=O)O | C13H23NO5
